US05648372
(1) Synthesis of 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-chloroethanol
After 6-cyanobenzothiazole (1.60 g) was dissolved in tetrahydrofuran (80 ml), and the solution was cooled to -98° C. in a nitrogen atmosphere, a 1.6M solution (5.9 ml) of n-butyllithium in hexane was added dropwise over 10 minutes, and the resultant mixture was stirred for 5 minutes. A solution of 2-chloro-2',4'-difluoroacetophenone (2.85 g) in tetrahydrofuran (20 ml) was added dropwise to this mixture. After the liquid reaction mixture was heated to -10° C., an aqueous solution of ammonium chloride was added thereto. After the mixture was heated to room temperature, an organic layer was taken out, and the solvent was distilled out under reduced pressure. A water layer was extracted with ethyl acetate and the extract was then put together with the residue of the organic layer. This organic layer was washed with water and then with saturated saline, dried over magnesium sulfate and then distilled under reduced pressure. The residue was subjected to column chromatography on silica gel (solvent: hexane/ethyl acetate=20/1, next, hexane/ethyl acetate=5/1), thereby obtaining the intended compound (1.49 g).

reactant | 6-cyanobenzothiazole | 1.60 g | C(#N)C1=CC2=C(N=CS2)C=C1 | C8H4N2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-chloro-2',4'-difluoroacetophenone | 2.85 g | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-chloroethanol | 1.49 g | FC1=C(C=CC(=C1)F)C(CCl)(O)C=1SC2=C(N1)C=CC(=C2)C#N | C16H9ClF2N2OS
